US08017602B2
Step iii) 3-(3-(2-Allyl-2H-tetrazol-5-yl)phenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide
The subtitled compound (450 mg) was prepared from 3-(3-(2-allyl-2H-tetrazol-5-yl)phenethoxy)propanoic acid [Example 7, Step ii)] and N-(2,2-dimethoxyethyl)cyclohexanamine using a similar method to that described in Example 14, Step iii). 1H NMR (300 MHz, CD3OD) δ 8.04-7.92 (m, 2H), 7.49-7.36 (m, 2H), 6.29-6.11 (m, 1H), 5.47-5.30 (m, 4H), 4.56 and 4.39 (2×t, J=5.3 Hz, 1H), 4.09-3.94 (m, 1H), 3.81-3.67 (m, 4H), 3.372 and 3.368 (2×s, 6H), 3.34 and 3.29 (d, J=5.3 Hz, 2H), 3.00-2.91 (m, 2H), 2.72-2.64 (m, 2H), 1.84-1.02 (m, 10H); a ˜1:1 mixture of rotamers is observed.

reactant | 3-(3-(2-allyl-2H-tetrazol-5-yl)phenethoxy)propanoic acid | C(C=C)N1N=C(N=N1)C=1C=C(CCOCCC(=O)O)C=CC1 | C15H18N4O3
reactant | N-(2,2-dimethoxyethyl)cyclohexanamine | COC(CNC1CCCCC1)OC | C10H21NO2
product | 3-(3-(2-Allyl-2H-tetrazol-5-yl)phenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide | 450 mg | C(C=C)N1N=C(N=N1)C=1C=C(CCOCCC(=O)N(CC(OC)OC)C2CCCCC2)C=CC1 | C25H37N5O4
